US07723370B2
4-(5-p-methylphenyl-3-trifluoromethyl-pyrazol-1-yl)-benzenesulfonyl chloride
To a stirred suspension of 4-(5-p-methylphenyl-3-trifluoromethyl-pyrazol-1-yl)-benzenesulfonic acid (43 g, 0.112 mol) in dichloromethane (250 ml) phosphorous pentachloride (34.20 g, 0.168 mol) was added portion-wise at room temperature, followed by addition of N,N-dimethylformamide (10 ml). The so obtained suspension was refluxed for 8 h, then concentrated in vacuo. The residue was partitioned between ethyl acetate (150 ml) and water (150 ml) and separated. The aqueous phase was extracted with ethyl acetate (1×50 ml), the combined organic layers were dried over MgSO4, filtered and concentrated. The obtained oil was crystallized from cyclohexane (120 ml) to yield 33.40 g (74%) of the title compound as white crystals. Mp: 97-98° C.

reactant | 4-(5-p-methylphenyl-3-trifluoromethyl-pyrazol-1-yl)-benzenesulfonic acid | 0.112 mol, 43 g | CC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)S(=O)(=O)O)C(F)(F)F | C17H13F3N2O3S
reactant | dichloromethane | 0.168 mol, 250 ml, 34.20 g | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(5-p-methylphenyl-3-trifluoromethyl-pyrazol-1-yl)-benzenesulfonyl chloride | 33.40 g, 74% | CC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C17H12ClF3N2O2S
